US07825135B2
tert-Butyl 4-(3-bromopyridin-2-yl)-4-cyanopiperidine-1-carboxylate
2,3-Dibromopyridine (5 g, 21 mmol) and tert-butyl 4-cyanopiperidine-1-carboxylate (3.0 g, 14 mmol) were reacted in the presence of potassium hexamethyldisilazide (17.1 mmol) using the method described in example 8-1 to afford the desired product: tert-butyl 4-(3-bromopyridin-2-yl)-4-cyanopiperidine-1-carboxylate: 1H NMR δ (ppm)(CDCl3): 8.53 (1 H, dd, J 1.5, 4.6 Hz), 7.97 (1 H, dd, J=1.5, 8.0 Hz), 7.18 (1 H, dd, J=4.4, 8.0 Hz), 4.23 (2 H, br s), 3.29 (2 H, br s), 2.48 (2 H, br s), 2.15 (2 H, br s), 1.47 (9 H, s).

reactant | 2,3-Dibromopyridine | 21 mmol, 5 g | BrC1=NC=CC=C1Br | C5H3Br2N
reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | 14 mmol, 3.0 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | potassium hexamethyldisilazide | 17.1 mmol | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
product | tert-Butyl 4-(3-bromopyridin-2-yl)-4-cyanopiperidine-1-carboxylate | BrC=1C(=NC=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C16H20BrN3O2
